US05760276
2-Iodo-4,4-dimethyl-2-cyclohexen-1-one (Compound 17)
Freshly distilled azidotrimethylsilane (4.61 mL, 34.7 mmol) was added to a stirred solution of 4,4-dimethyl-2-cyclohexen-1-one (available from Aldrich Chemical Co., 3.04 mL, 23.2 mmol) and dichloromethane (35 mL) at 0° C. under argon. The solution was stirred for 2 hours at 0° C. before adding a solution of iodine (11.8 g, 46.3 mmol) in 35 mL of pyridine and 35 mL of dichloromethane. The resulting solution was stirred for 20 hours at room temperature, diluted with ethyl acetate, and was washed with 20% aqueous Na2S2O3, and 10% aqueous HCl, and water, and brine. The solvents were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (7:1, hexanes:ethyl acetate) to give the title compound as a yellow oil.

reactant | azidotrimethylsilane | 34.7 mmol, 4.61 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | 4,4-dimethyl-2-cyclohexen-1-one | 23.2 mmol, 3.04 mL | CC1(C=CC(CC1)=O)C | C8H12O
reactant | iodine | 46.3 mmol, 11.8 g | II | I2
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 2-Iodo-4,4-dimethyl-2-cyclohexen-1-one | IC=1C(CCC(C1)(C)C)=O | C8H11IO
